US04140789
A mixture of 45.8 g of 3-allyloxy-phthalic acid in 200 ml of toluene and 25.5 ml of acetic anhydride is heated to the reflux temperature for 3 hours and then evaporated under reduced pressure. The residue is crystallised from diethyl ether and gives 3-allyloxy-phthalic anhydride; melting point 115°-117°.

reactant | 3-allyloxy-phthalic acid | 45.8 g | C(C=C)OC1=C(C(C(=O)O)=CC=C1)C(=O)O | C11H10O5
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetic anhydride | 25.5 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-allyloxy-phthalic anhydride | C(C=C)OC1=C2C(C(=O)OC2=O)=CC=C1 | C11H8O4
